US08541421B2
N-(2-cyano-3-methoxyphenylcarbamoyl)benzamide
Prepared as in Example 53a from 2-amino-6-methoxybenzonitrile and benzoyl isocyanate as light orange solid (118 mg, 41%). 1H NMR (400 MHz, DMSO-d6) δ3.94 (s, 3H), 6.98 (d, J=8 Hz, 1H), 7.54 (t, J=8 hz, 2H), 7.64 (t, J=8.4 Hz, 2H), 7.88 (d, J=8.4 Hz, 1H), 8.04 (d, J=5.6 Hz, 2H), 11.35 (s, 1H), 11.51 (s, 1H). MS 295 (MH+).

reactant | 2-amino-6-methoxybenzonitrile | NC1=C(C#N)C(=CC=C1)OC | C8H8N2O
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | N-(2-cyano-3-methoxyphenylcarbamoyl)benzamide | C(#N)C1=C(C=CC=C1OC)NC(=O)NC(C1=CC=CC=C1)=O | C16H13N3O3
